US07342131B2
To a solution of 2-(phenylmethoxy)benzoic acid (1.0 g, 4.4 mmol), 3-bromopropan-1-ol (0.35 mL, 4.0 mmol), and 4-(dimethylamino)pyridine (50 mg) in 20 mL of anhydrous dichloromethane, 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride (EDAC) (1.3 g, 6.6 mmol) was slowly added. The resulting mixture was stirred at room temperature for 16 hrs. The reaction mixture was diluted with dichloromethane and washed with 0.5N HCl three times followed by the addition of a saturated NaHCO3 solution and brine. The organic layer was separated, dried through a MgSO4 pad, and concentrated under reduced pressure. Chromatography (silica gel, 1:9 ethyl acetate/hexane) of the residue afforded 0.8 g (58%) of 3-Bromopropyl 2-(phenylmethoxy)benzoate.

reactant | 2-(phenylmethoxy)benzoic acid | 4.4 mmol, 1.0 g | C1(=CC=CC=C1)COC1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | 3-bromopropan-1-ol | 4.0 mmol, 0.35 mL | BrCCCO | C3H7BrO
reactant | 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride | 6.6 mmol, 1.3 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-Bromopropyl 2-(phenylmethoxy)benzoate | 0.8 g, 58% | C1(=CC=CC=C1)COC1=C(C(=O)OCCCBr)C=CC=C1 | C17H17BrO3
